datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12](#[C:13][C:14]([H:16])[H:17])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:14]([C:13]#[C:12][H:15])([H:16])[H:17])[H:6],51.003
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])[H:11])([H:8])([H:9])[H:10].[S:17]([S:18][H:20])[H:19]>>[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:11])[H:19])([H:8])([H:9])[H:10].[S:17][S:18][H:20],-8.7864
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](#[C:14][C:15]([C:16]([H:19])([H:20])[H:21])[H:18])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:15]([C:14]#[C:13][H:17])([C:16]([H:19])([H:20])[H:21])[H:18])[H:8])[H:7],33.0536
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25](=[C:26]([C:27]([C:28]([H:34])([H:35])[H:36])[C:29](=[C:30]([H:38])[H:39])[H:37])[H:33])([H:31])[H:32]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][C:27]([C:26](=[C:25]([H:31])[H:32])[H:33])([C:28]([H:34])([H:35])[H:36])[C:29](=[C:30]([H:38])[H:39])[H:37],104.182
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4]>>[C:0]([C:1]=[C:2]([H:6])[H:7])([H:3])([H:4])[H:5],260.245
[C:0](=[C:1]([C:2](=[C:3][c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])=[C:3]1[c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])([H:10])[H:11],119.407176
[N:0]([N:1]([H:4])[H:5])([H:2])[H:3].[O:6][N:7]=[O:8]>>[H:2][O:6][N:7]=[O:8].[N:0]([N:1]([H:4])[H:5])[H:3],37.07024
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15],69.4544
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([S:13][H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:17])[H:5].[C:12]([S:13])([H:14])([H:15])[H:16],12.9704
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])([H:11])([H:12])[H:13]>>[C:0](=[C:1][C:2]([H:4])([H:5])[H:6])([H:3])[C:8]([C:7]([H:11])([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19],16.8197
[O:0][O:1][c:2]1[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]1[H:12]>>[O:0]1[O:1][C:2]12[C:3]([H:8])[C:4]([H:9])=[C:5]([H:10])[C:6]([H:11])=[C:7]2[H:12],102.290432
[C:0](=[C:1]([H:3])[H:4])[H:2].[C:5](=[O:6])[H:7]>>[C-:5]#[O+:6].[C:0](=[C:1]([H:3])[H:4])([H:2])[H:7],0.0
[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10])[H:8].[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26]>>[H:9][c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])[H:8],-14.644
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24],18.4096
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5].[O:7][H:8]>>[C:0]([O:1][O:2])([H:3])([H:4])[H:5].[H:6][O:7][H:8],-1.828408
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])[H:8])[H:7])([H:5])[H:6],28.1583
[O:0]([H:1])[H:2].[O:3]=[C:4]=[S:5]>>[O:0]([H:2])[C:4](=[O:3])[S:5][H:1],188.698
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:21]([H:22])([H:23])[H:24])[H:11],20.8363
[C:0]([N:1]([H:5])[H:6])([H:2])([H:3])[H:4].[C:7]([H:8])([H:9])[H:10]>>[C:0]([N:1][H:6])([H:2])([H:3])[H:4].[H:5][C:7]([H:8])([H:9])[H:10],55.4087
